US06716863B2
3-[1-(4-(4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-imidazol-2-yl]-1,2-propanediol
Using 3-{1-[4-(4-hydroxyphenyl)butyl]-1H-imidazol-2-yl}-1,2-propanediol (204 mg), 65% oily sodium hydride (28 mg) and 4-(chloromethyl)-2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazole (212 mg), the same reaction as Example 2 was carried out to yield the titled compound (285 mg).

reactant | 3-{1-[4-(4-hydroxyphenyl)butyl]-1H-imidazol-2-yl}-1,2-propanediol | 204 mg | OC1=CC=C(C=C1)CCCCN1C(=NC=C1)CC(CO)O | C16H22N2O3
reactant | sodium hydride | 28 mg | [H-].[Na+]
reactant | 4-(chloromethyl)-2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazole | 212 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO
product | 3-[1-(4-(4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-imidazol-2-yl]-1,2-propanediol | 285 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CC(CO)O)(F)F | C29H30F3N3O4
